US04663453
2-(5-Methyl-7-nitro-1-indolinyl)benzoic acid
A stirred solution under nitrogen of potassium hydroxide (30 g, 0.53 mole) in ethylene glycol (250 ml) and water (35 ml) was heated to 175° C., at which temperature there was added 2-(5-methyl-7-nitroindolin-1-yl)benzonitrile (26 g, 0.093 mole). After heating at 175° C. for 3 hours, the reaction mixture was cooled to room temperature and dichloromethane (1 liter) and water (500 ml), were added, with stirring. The aqueous phase was separated and extracted with two 250 ml-portions of dichloromethane. The aqueous phase was then cooled in an ice-bath and acidified with concentrated hydrochloric acid. The product was extracted out with three 500 ml-portions of dichloromethane. The combined organic extracts were washed twice with brine, dried, filtered, and concentrated to afford 9.0 g (32%) of product.

reactant | potassium hydroxide | 0.53 mole, 30 g | [OH-].[K+]
reactant | 2-(5-methyl-7-nitroindolin-1-yl)benzonitrile | 0.093 mole, 26 g | CC=1C=C2CCN(C2=C(C1)[N+](=O)[O-])C1=C(C#N)C=CC=C1 | C16H13N3O2
reactant | dichloromethane | 1 liter | ClCCl | CH2Cl2
reactant | ethylene glycol | 250 ml | C(CO)O | C2H6O2
solvent | water | 35 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 2-(5-Methyl-7-nitro-1-indolinyl)benzoic acid | 9.0 g, 32% | CC=1C=C2CCN(C2=C(C1)[N+](=O)[O-])C1=C(C(=O)O)C=CC=C1 | C16H14N2O4
